** Name: SimpleTwoStageOpAmp_SimpleOpAmp47_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp47_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=1e-6 W=40e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=549e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=52e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=38e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=8e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=21e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=549e-6
mNormalTransistorNmos9 outFirstStage inputVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=49e-6
mNormalTransistorNmos10 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=49e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=126e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=126e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=376e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=166e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=439e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=217e-6
mNormalTransistorPmos18 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=2e-6 W=217e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=3e-6 W=394e-6
mNormalTransistorPmos20 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=3e-6 W=394e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=410e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=410e-6
mNormalTransistorPmos23 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp47_9

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 14.5721 mW
** Area: 14989 (mu_m)^2
** Transit frequency: 25.8781 MHz
** Transit frequency with error factor: 25.8775 MHz
** Slew rate: 45.0543 V/mu_s
** Phase margin: 55.004°
** CMRR: 135 dB
** VoutMax: 4.25 V
** VoutMin: 0.840001 V
** VcmMax: 3.95001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 39.9981 muA
** NormalTransistorPmos: -44.4669 muA
** NormalTransistorPmos: -99.0429 muA
** NormalTransistorNmos: 160.728 muA
** NormalTransistorNmos: 241.09 muA
** NormalTransistorNmos: 160.73 muA
** NormalTransistorNmos: 241.092 muA
** NormalTransistorPmos: -160.727 muA
** NormalTransistorPmos: -160.728 muA
** NormalTransistorPmos: -160.729 muA
** NormalTransistorPmos: -160.728 muA
** NormalTransistorPmos: -160.724 muA
** NormalTransistorPmos: -80.3629 muA
** NormalTransistorPmos: -80.3629 muA
** NormalTransistorNmos: 2228.68 muA
** DiodeTransistorNmos: 2228.68 muA
** NormalTransistorPmos: -2228.67 muA
** DiodeTransistorNmos: 44.4661 muA
** NormalTransistorNmos: 44.4651 muA
** DiodeTransistorNmos: 99.0421 muA
** DiodeTransistorNmos: 99.0411 muA
** DiodeTransistorPmos: -39.9989 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.22501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.24601  V
** inputVoltageBiasXXnXX2: 1.13101  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.623001  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.17301  V
** innerTransistorStack1Load2: 4.53701  V
** innerTransistorStack2Load2: 4.53701  V
** sourceGCC1: 0.529001  V
** sourceGCC2: 0.529001  V
** sourceTransconductance: 3.34001  V
** inner: 0.622001  V


.END