** Name: SimpleTwoStageOpAmp_SimpleOpAmp48_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp48_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=276e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=17e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=6e-6 W=269e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=2e-6 W=269e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=232e-6
mNormalTransistorNmos9 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=219e-6
mNormalTransistorNmos10 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=100e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=21e-6
mNormalTransistorNmos12 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=219e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=545e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=545e-6
mNormalTransistorPmos15 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=276e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=269e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=6e-6 W=269e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=300e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=300e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=298e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp48_5

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 14.8881 mW
** Area: 14946 (mu_m)^2
** Transit frequency: 24.4951 MHz
** Transit frequency with error factor: 24.4936 MHz
** Slew rate: 84.1519 V/mu_s
** Phase margin: 55.004°
** CMRR: 125 dB
** VoutMax: 3.23001 V
** VoutMin: 0.520001 V
** VcmMax: 3.52001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 98.0981 muA
** NormalTransistorNmos: 20.6641 muA
** NormalTransistorNmos: 356.167 muA
** NormalTransistorNmos: 534.633 muA
** NormalTransistorNmos: 356.167 muA
** NormalTransistorNmos: 534.633 muA
** DiodeTransistorPmos: -356.166 muA
** NormalTransistorPmos: -356.167 muA
** NormalTransistorPmos: -356.166 muA
** DiodeTransistorPmos: -356.167 muA
** NormalTransistorPmos: -356.934 muA
** NormalTransistorPmos: -178.466 muA
** NormalTransistorPmos: -178.466 muA
** NormalTransistorNmos: 1779.66 muA
** NormalTransistorPmos: -1779.65 muA
** DiodeTransistorPmos: -1779.65 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -98.0989 muA
** NormalTransistorPmos: -98.0999 muA
** DiodeTransistorPmos: -20.6649 muA


** Expected Voltages: 
** ibias: 1.13401  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.929001  V
** outInputVoltageBiasXXpXX1: 2.66601  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 3.83301  V
** outVoltageBiasXXpXX2: 4.06901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 3.76601  V
** innerTransistorStack1Load2: 3.76401  V
** out1: 2.81601  V
** sourceGCC1: 0.532001  V
** sourceGCC2: 0.532001  V
** sourceTransconductance: 3.60901  V
** inner: 3.83201  V


.END