** Name: SimpleTwoStageOpAmp_SimpleOpAmp48_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp48_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=74e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=63e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=287e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=3e-6 W=287e-6
mNormalTransistorNmos6 out outInputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=415e-6
mNormalTransistorNmos7 outFirstStage outInputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=73e-6
mNormalTransistorNmos8 FirstStageYout1 outInputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=73e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=63e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=63e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=427e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=600e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=3e-6 W=287e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=327e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=287e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=398e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=398e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=217e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp48_8

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 14.7451 mW
** Area: 14417 (mu_m)^2
** Transit frequency: 23.625 MHz
** Transit frequency with error factor: 23.6242 MHz
** Slew rate: 55.737 V/mu_s
** Phase margin: 55.577°
** CMRR: 130 dB
** VoutMax: 4.25 V
** VoutMin: 0.880001 V
** VcmMax: 3.74001 V
** VcmMin: -0.329999 V


** Expected Currents: 
** NormalTransistorPmos: -296.582 muA
** NormalTransistorNmos: 200.55 muA
** NormalTransistorNmos: 300.823 muA
** NormalTransistorNmos: 200.552 muA
** NormalTransistorNmos: 300.825 muA
** DiodeTransistorPmos: -200.549 muA
** NormalTransistorPmos: -200.55 muA
** NormalTransistorPmos: -200.551 muA
** DiodeTransistorPmos: -200.55 muA
** NormalTransistorPmos: -200.547 muA
** NormalTransistorPmos: -100.273 muA
** NormalTransistorPmos: -100.273 muA
** NormalTransistorNmos: 2030.69 muA
** NormalTransistorNmos: 2030.68 muA
** NormalTransistorPmos: -2030.68 muA
** DiodeTransistorNmos: 296.583 muA
** DiodeTransistorNmos: 296.582 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.11601  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.26401  V
** outSourceVoltageBiasXXnXX1: 0.642001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.23801  V
** innerTransistorStack1Load2: 4.23501  V
** out1: 3.33001  V
** sourceGCC1: 0.678001  V
** sourceGCC2: 0.678001  V
** sourceTransconductance: 3.43801  V
** innerStageBias: 0.618001  V


.END