** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=46e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=481e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=8e-6 W=564e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=39e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=39e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=481e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=78e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=78e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=8e-6 W=187e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=46e-6
mNormalTransistorPmos13 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=130e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=442e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=216e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=270e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=130e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=109e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=109e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_9

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 14.8701 mW
** Area: 10814 (mu_m)^2
** Transit frequency: 23.6141 MHz
** Transit frequency with error factor: 23.5809 MHz
** Slew rate: 33.3335 V/mu_s
** Phase margin: 57.2958°
** CMRR: 99 dB
** VoutMax: 4.25 V
** VoutMin: 0.870001 V
** VcmMax: 5.17001 V
** VcmMin: 0.880001 V


** Expected Currents: 
** NormalTransistorPmos: -215.369 muA
** NormalTransistorPmos: -273.746 muA
** NormalTransistorPmos: -64.6609 muA
** NormalTransistorPmos: -110.511 muA
** NormalTransistorPmos: -64.6609 muA
** NormalTransistorPmos: -110.511 muA
** DiodeTransistorNmos: 64.6601 muA
** NormalTransistorNmos: 64.6601 muA
** NormalTransistorNmos: 91.6991 muA
** NormalTransistorNmos: 45.8501 muA
** NormalTransistorNmos: 45.8501 muA
** NormalTransistorNmos: 2243.91 muA
** DiodeTransistorNmos: 2243.91 muA
** NormalTransistorPmos: -2243.9 muA
** DiodeTransistorNmos: 215.37 muA
** NormalTransistorNmos: 215.369 muA
** DiodeTransistorNmos: 273.747 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.47501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.27801  V
** outSourceVoltageBiasXXnXX1: 0.639001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX2: 0.620001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.684001  V
** sourceGCC1: 4.20501  V
** sourceGCC2: 4.20501  V
** sourceTransconductance: 1.83101  V
** inner: 0.637001  V


.END