** Name: SimpleTwoStageOpAmp_SimpleOpAmp53_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp53_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=25e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=352e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=10e-6 W=16e-6
mDiodeTransistorNmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=6e-6 W=51e-6
mDiodeTransistorNmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=6e-6 W=594e-6
mDiodeTransistorPmos6 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=6e-6 W=594e-6
mNormalTransistorNmos9 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=352e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=6e-6 W=51e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=26e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=26e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=10e-6 W=268e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=25e-6
mNormalTransistorPmos15 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=165e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=427e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=152e-6
mNormalTransistorPmos18 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mNormalTransistorPmos19 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=165e-6
mNormalTransistorPmos20 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=319e-6
mNormalTransistorPmos21 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=319e-6
Capacitor1 outFirstStage out 2.60001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp53_9

** Expected Performance Values: 
** Gain: 112 dB
** Power consumption: 14.9971 mW
** Area: 13601 (mu_m)^2
** Transit frequency: 25.2041 MHz
** Transit frequency with error factor: 25.2029 MHz
** Slew rate: 78.0673 V/mu_s
** Phase margin: 55.577°
** CMRR: 133 dB
** VoutMax: 4.25 V
** VoutMin: 0.940001 V
** VcmMax: 5.17001 V
** VcmMin: 1.22001 V


** Expected Currents: 
** NormalTransistorPmos: -151.657 muA
** NormalTransistorPmos: -13.1799 muA
** NormalTransistorPmos: -213.914 muA
** NormalTransistorPmos: -323.426 muA
** NormalTransistorPmos: -213.914 muA
** NormalTransistorPmos: -323.426 muA
** DiodeTransistorNmos: 213.915 muA
** DiodeTransistorNmos: 213.914 muA
** NormalTransistorNmos: 213.915 muA
** NormalTransistorNmos: 213.914 muA
** NormalTransistorNmos: 219.022 muA
** NormalTransistorNmos: 109.512 muA
** NormalTransistorNmos: 109.512 muA
** NormalTransistorNmos: 2167.76 muA
** DiodeTransistorNmos: 2167.76 muA
** NormalTransistorPmos: -2167.75 muA
** DiodeTransistorNmos: 151.658 muA
** NormalTransistorNmos: 151.657 muA
** DiodeTransistorNmos: 13.1791 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.39801  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.34801  V
** outSourceVoltageBiasXXnXX1: 0.674001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX2: 0.716001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.948001  V
** innerTransistorStack2Load2: 0.947001  V
** out1: 1.51201  V
** sourceGCC1: 4.23001  V
** sourceGCC2: 4.23001  V
** sourceTransconductance: 1.59401  V
** inner: 0.674001  V


.END